US08445510B2
trans-4-(4-{3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-5-methyl-1H-pyrazol-1-yl)-N,N-dimethylcyclohexanamine
A mixture of 4-(4-{3-[(1S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-5-methyl-1H-pyrazol-1-yl)cyclohexanone (12.0 mg, 0.0250 mmol), dimethylamine hydrochloride (20.34 mg, 0.2495 mmol), sodium triacetoxyborohydride (10.58 mg, 0.04990 mmol) and triethylamine (0.06 mL, 0.4 mmol) in 1,2-dichloroethane (3 mL, 40 mmol) was heated to 60° C. in a sealed tube for 1 h. The solution was extracted with DCM and sat. NaHCO3, and the organic layer was loaded onto silica gel for column chromatography, eluting with 3-7% (7N NH3 in MeOH)/DCM. The fractions containing the cis and trans products separately were concentrated in vacuo to afford the title compound as white solid. 1H NMR (400 MHz, CD3OD): δ=1.42-1.65 (m, 2H), 1.82 (d, J=7.1 Hz, 3H), 1.95-2.19 (m, 6H), 2.24 (s, 3H), 2.36-2.42 (m, 6H), 2.44-2.53 (m, 1H), 3.66 (br. s., 3H), 4.13-4.26 (m, 1H), 5.12 (q, J=7.1 Hz, 1H), 6.91 (dd, J=9.0, 4.2 Hz, 1H), 7.10 (t, J=9.0 Hz, 1H), 7.36 (d, J=1.3 Hz, 1H), 7.42 (s, 1H), 7.49 (s, 1H), 8.12 (d, J=2.0 Hz, 1H). MS (ES+): m/z=510.25/512.25 (100/50) [MH+]. HPLC: tR=1.18 min (polar—3 min, UPLC-ACQUITY).

reactant | 4-(4-{3-[(1S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-5-methyl-1H-pyrazol-1-yl)cyclohexanone | 0.0250 mmol, 12.0 mg | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C=NN(C2C)C2CCC(CC2)=O | C26H26ClFN4O2
reactant | dimethylamine hydrochloride | 0.2495 mmol, 20.34 mg | Cl.CNC
reactant | sodium triacetoxyborohydride | 0.04990 mmol, 10.58 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | triethylamine | 0.4 mmol, 0.06 mL | C(C)N(CC)CC | C6H15N
reactant | 1,2-dichloroethane | 40 mmol, 3 mL | ClCCCl | C2H4Cl2
product | trans-4-(4-{3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-5-methyl-1H-pyrazol-1-yl)-N,N-dimethylcyclohexanamine | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C=NN(C2C)[C@@H]2CC[C@H](CC2)N(C)C | C28H33ClFN5O
